US05807859
The process is performed as in Example 53 but starting with 0.84 g of (10-methyl-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-10-yl)-acetonitrile, 7.6 ml of concentrated hydrochloric acid and 1.5 ml of distilled water. The reaction mixture is cooled to a temperature in the region of 20° C., basified with 7 ml of concentrated sodium hydroxide and filtered. Distilled water (qs 50 ml) is added and the filtrate is acidified to pH 4 with acetic acid. The precipitate formed is filtered off, washed with distilled water and then with ethyl ether (2×15 ml), and dried at 60° C. under vacuum (1 mmHg; 0.13 kPa). 0.14 g of (10-methyl-4,5-dihydro-4-oxo-10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-10-yl)acetic acid is obtained in the form of a beige-coloured solid (1H NMR spectrum: (200 MHz; (CD3)2SO-d6 ; δ in ppm): 1.62 (s, 3H: CH3); 3.22 (limiting AB, J=15.5 Hz, 1H: CH2COO); 7.35 (mt, 2H: H 7 and H 8); 7.60 and 8.28 (2 broad s, 1H each: H of the imidazole); 7.65 and 7.85 (2 broad d, J=7.5 Hz, 1H each: H 6 and H 8); from 11.80 to 12.80 (broad mult., 1H: NH 5)).

reactant | (10-methyl-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-10-yl)-acetonitrile | 0.84 g | CC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CC#N | C16H12N4O
reactant | hydrochloric acid | 7.6 ml | Cl | ClH
reactant | sodium hydroxide | 7 ml | [OH-].[Na+]
reactant | water | 1.5 ml | O | H2O
product | (10-methyl-4,5-dihydro-4-oxo-10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-10-yl)acetic acid | 0.14 g | CC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CC(=O)O | C16H13N3O3
